US08461175B2
A 50 ml round-bottom flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 300 mg of 5-(2,6-difluorophenyl)-3-{[1-(trifluoromethanesulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carboxamide in 8 ml of DCM. 3 ml of TFA are added and the mixture is stirred at RT for 2 h. It is concentrated under RP and the solid obtained is taken up in 30 ml of water and 2 ml of 0.75M aqueous ammonia solution. The product is extracted with AcOEt, dried over MgSO4, filtered and concentrated under RP. Chromatography on silica gel (15-40 μm), eluting with AcOEt, gives 30 mg of 5-(2,6-difluorophenyl)-3-{[1-(trifluoromethanesulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carboxamide (pale yellow solid). MS (E/I): m/z=554 (M+); 1H NMR: 1.69 (m, 2H); 2.17 (m, 2H); 3.38 (m, 2H); 3.83 (m, 2H); 3.93 (m, 1H); 6.24 (m, 1H); 7.33 (t, J=8.0 Hz, 2H); 7.58 (broad s, 1H); 7.69 (m, 1H); 8.17 (broad s, 1H); 8.23 (broad s, 1H); 8.36 (broad d, J=8.5 Hz, 1H); 8.44 (d, J=8.5 Hz, 1H); 12.9 (broad s, 1H).

reactant | 5-(2,6-difluorophenyl)-3-{[1-(trifluoromethanesulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carboxamide | 300 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C(=O)N)N(N=C2NC2CCN(CC2)S(=O)(=O)C(F)(F)F)COCC[Si](C)(C)C | C29H33F5N6O4SSi
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | ammonia | 0.75M, 2 ml | N | H3N
product | 5-(2,6-difluorophenyl)-3-{[1-(trifluoromethanesulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carboxamide | 30 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C(=O)N)NN=C2NC2CCN(CC2)S(=O)(=O)C(F)(F)F | C23H19F5N6O3S
